** sch_path: /foss/designs/PhaseInterpolator/Clock_Gen/6ph_rosc.sch
**.subckt 6ph_rosc CTRL PH0 PH3 PH2 PH5 PH4 PH1 VSS VDD
*.iopin VDD
*.iopin VSS
*.ipin CTRL
*.opin PH0
*.opin PH2
*.opin PH5
*.opin PH1
*.opin PH4
*.opin PH3
x1 VDD Ph4_in Ph1_in CTRL Ph3_in Ph0_in VSS psdiff
x2 VDD Ph2_in Ph5_in CTRL Ph1_in Ph4_in VSS psdiff
x3 VDD Ph0_in Ph3_in CTRL Ph5_in Ph2_in VSS psdiff
x4 CTRL Ph0 Ph3 VDD decap
x5 CTRL Ph2 Ph5 VDD decap
x6 CTRL Ph1 Ph4 VDD decap
x7 VDD PH1 Ph1_in VSS buff_d8
x8 VDD PH4 Ph4_in VSS buff_d8
x9 VDD PH5 Ph5_in VSS buff_d8
x10 VDD PH2 Ph2_in VSS buff_d8
x11 VDD PH3 Ph3_in VSS buff_d8
x12 VDD PH0 Ph0_in VSS buff_d8
x19 VDD Ph2 Ph5 VSS flywheel
x17 VDD Ph0 Ph3 VSS flywheel
x13 VDD Ph4 Ph1 VSS flywheel
**.ends

* expanding   symbol:  /foss/designs/PhaseInterpolator/Clock_Gen/psdiff.sym # of pins=7
** sym_path: /foss/designs/PhaseInterpolator/Clock_Gen/psdiff.sym
** sch_path: /foss/designs/PhaseInterpolator/Clock_Gen/psdiff.sch
.subckt psdiff VDD VOUTDN VOUTDP CTRL CLKN CLKP VSS
*.iopin VSS
*.ipin CLKP
*.ipin CLKN
*.iopin VDD
*.ipin CTRL
*.opin VOUTDN
*.opin VOUTDP
XM1 net1 CLKP VSS VSS sg13_lv_nmos w=1.5u l=0.13u ng=10 m=3
XM2 net2 CLKN VSS VSS sg13_lv_nmos w=1.5u l=0.13u ng=10 m=3
XM3 net3 CTRL net1 VSS sg13_lv_nmos w=0.3u l=0.13u ng=2 m=1
XM4 net4 CTRL net2 VSS sg13_lv_nmos w=0.3u l=0.13u ng=2 m=1
XM6 net2 net3 VDD VDD sg13_lv_pmos w=1.5u l=0.13u ng=10 m=1
XM5 net1 net4 VDD VDD sg13_lv_pmos w=1.5u l=0.13u ng=10 m=1
XM7 net1 VSS VDD VDD sg13_lv_pmos w=1.5u l=0.13u ng=10 m=2
XM8 net2 VSS VDD VDD sg13_lv_pmos w=1.5u l=0.13u ng=10 m=2
x1 VDD VOUTDP net2 VSS buff_d8
x2 VDD VOUTDN net1 VSS buff_d8
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Clock_Gen/decap.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Clock_Gen/decap.sym
** sch_path: /foss/designs/PhaseInterpolator/Clock_Gen/decap.sch
.subckt decap CTRL VOUTDN VOUTDP VDD
*.ipin CTRL
*.ipin VDD
*.ipin VOUTDN
*.ipin VOUTDP
XM10 CTRL VOUTDP CTRL VDD sg13_lv_pmos w=8u l=0.13u ng=8 m=4
XM9 CTRL VOUTDN CTRL VDD sg13_lv_pmos w=8u l=0.13u ng=8 m=4
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/buff_d8.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/buff_d8.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/buff_d8.sch
.subckt buff_d8 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x7 VDD net1 VIN VSS inv
x8 VDD net2 net1 VSS inv_d2
x9 VDD net3 net2 VSS inv_d4
x10 VDD VOUT net3 VSS inv_d8
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Clock_Gen/flywheel.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Clock_Gen/flywheel.sym
** sch_path: /foss/designs/PhaseInterpolator/Clock_Gen/flywheel.sch
.subckt flywheel VDD PH1 PH0 VSS
*.iopin VDD
*.iopin VSS
*.iopin PH1
*.iopin PH0
x13 VDD PH1 PH0 VSS inv_d2
x14 VDD PH0 PH1 VSS inv_d2
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/inv.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv.sch
.subckt inv VDD VOUT VIN VSS
*.iopin VDD
*.iopin VSS
*.opin VOUT
*.ipin VIN
XM2 VOUT VIN VDD VDD sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1
XM1 VOUT VIN VSS VSS sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d2.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d2.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d2.sch
.subckt inv_d2 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv
x1[0] VDD VOUT VIN VSS inv
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d4.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d4.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d4.sch
.subckt inv_d4 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_d2
x1[0] VDD VOUT VIN VSS inv_d2
.ends


* expanding   symbol:  /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d8.sym # of pins=4
** sym_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d8.sym
** sch_path: /foss/designs/PhaseInterpolator/Custom_std_cells/inv_d8.sch
.subckt inv_d8 VDD VOUT VIN VSS
*.ipin VIN
*.opin VOUT
*.iopin VDD
*.iopin VSS
x1[1] VDD VOUT VIN VSS inv_d4
x1[0] VDD VOUT VIN VSS inv_d4
.ends

.end
